US07741327B2
In a round bottom flask under argon was placed N-(benzyloxycarbonyl)-α-phosphonoglycine methyl ester (3.04 g, 9.16 mmol) in dichloromethane (10 mL) and cooled to 0° C. This mixture was treated dropwise with 1,8-diazabicyclo[5.4.0]undec-7-ene (1.20 mL, 7.94 mmol) and stirred at 0° C. for 20 min. A solution of 3-methyl-cyclobutanecarbaldehyde (600 mg, 6.11 mmol) in dichloromethane (5 mL) was then added. After the addition was complete the reaction was warmed to 25° C. and stirred overnight. The mixture was then concentrated in vacuo and dissolved in ethyl acetate (100 mL). The ethyl acetate layer was washed with a saturated aqueous ammonium chloride solution (2×50 mL), a saturated aqueous solution of sodium chloride (50 mL), dried over sodium sulfate and concentrated in vacuo with silica gel (3 g). Purification by Biotage flash chromatography (40M column, 20% ethyl acetate/hexanes) afforded (Z)-2-benzyloxycarbonylamino-3-(3-methyl-cyclobutyl)-acrylic acid methyl ester (693 mg, 38%) as a yellow viscous oil.

reactant | N-(benzyloxycarbonyl)-α-phosphonoglycine methyl ester | 9.16 mmol, 3.04 g | COC(C(NC(=O)OCC1=CC=CC=C1)P(=O)(O)O)=O | C11H14NO7P
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 7.94 mmol, 1.20 mL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | 3-methyl-cyclobutanecarbaldehyde | 6.11 mmol, 600 mg | CC1CC(C1)C=O | C6H10O
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | (Z)-2-benzyloxycarbonylamino-3-(3-methyl-cyclobutyl)-acrylic acid methyl ester | 693 mg, 38% | COC(/C(=C/C1CC(C1)C)/NC(=O)OCC1=CC=CC=C1)=O | C17H21NO4
